US04976773
2-(4-(4-Chlorophenoxy)phenoxy)propionic acid chloride (0.6 g) and 4-(4-nitrophenoxy)phenol (0.5 g) were dissolved in dry tetrahydrofuran (10 ml), and the solution was stirred with an addition of triethylamine (0.3 ml) at room temperature for 2 hours. After completion of the reaction, the solvent was evaporated under a reduced pressure, the residue was dissolved in methylene chloride (20 ml), and washed with 1N hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate, water, and aqueous saturated sodium chloride. After drying over anhydrous magnesium sulfate, the solvent was evaporated and the residue obtained was purified by medium pressure column chromatography to obtain 4-(4-nitrophenoxy)phenyl 2-(4-(4-chlorophenoxy)phenoxy)propionate (0.8 g)

reactant | 2-(4-(4-Chlorophenoxy)phenoxy)propionic acid chloride | 0.6 g | ClC1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1 | C15H12Cl2O3
reactant | 4-(4-nitrophenoxy)phenol | 0.5 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9NO4
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-nitrophenoxy)phenyl 2-(4-(4-chlorophenoxy)phenoxy)propionate | 0.8 g | ClC1=CC=C(OC2=CC=C(OC(C(=O)OC3=CC=C(C=C3)OC3=CC=C(C=C3)[N+](=O)[O-])C)C=C2)C=C1 | C27H20ClNO7
